US05093345
0.69 g (0.03 g atom) of sodium is dissolved in 100 ml of ethanol. 6.3 g (0.03 mol) of 5-nitro-7-methylbenzothiazolone and then 7.17 g (0.03 mol) of diethyl bromomalonate are added to the solution. The reaction mixture is heated under reflux for 8 hours, poured onto ice and the precipitated product is recrystallized from a little ethanol. 4 g (36% of theory) of 7-methyl-5-nitro-3-(bis-ethoxycarbonyl-methyl)-benzothiazolone are obtained in the form of colorless needles of melting point 97° C.

reactant | sodium | 0.69 g | [Na] | Na
reactant | 5-nitro-7-methylbenzothiazolone | 0.03 mol, 6.3 g | [N+](=O)([O-])C=1C=C(C2=C(N=CS2=O)C1)C | C8H6N2O3S
reactant | diethyl bromomalonate | 0.03 mol, 7.17 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-methyl-5-nitro-3-(bis-ethoxycarbonyl-methyl)-benzothiazolone | 4 g, 36% | CC1=CC(=CC=2N(CS(C21)=O)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C15H18N2O7S
